US07259183B2
1.22 g (5.0 mmol) of 1-bromo-5-fluoro-2-nitrobenzene were dissolved in 50 ml THF. At a temperature of −45° C. under nitrogen 15 ml (15.0 mmol) of a 1M vinyl magnesium bromide solution in THF were added in such a way, that the temperature was kept below −40° C. The resulting dark solution was stirred for 30 min at −40° C. 10 ml of saturated aqueous NH4Cl solution were added and the reaction mixture was warmed to rt. It was extracted twice with diethyl ether. The organic layer was washed with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (100 g silica gel, heptane/EtOAc 9:1) to yield 553 mg (52%) 7-bromo-5-fluoro-indol as a light brown oil. 1H NMR (CDCl3, 300 MHz): δ 8.30 (br s, 1H), 7.29 (m, 1H), 7.25 (m, 1H), 7.16 (m, 1H), 6.60 (m, 1H).

reactant | 1-bromo-5-fluoro-2-nitrobenzene | 5.0 mmol, 1.22 g | BrC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | vinyl magnesium bromide | 1M | C(=C)[Mg]Br
reactant | NH4Cl | 10 ml | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-bromo-5-fluoro-indol | 553 mg, 52% | BrC=1C=C(C=C2C=CNC12)F | C8H5BrFN
